US07872014B2
To 3-[5-amino-1-(1,1-dimethylethyl)-3-methyl-1H-pyrazol-4-yl]-5-fluoro-2-(methyloxy)phenol (150 mg, 0.51 mmol) was added 4-benzyloxy-3-methylbenzaldehyde (115 mg, 0.51 mmol) and acetic acid (2 mL). The mixture was heated to 120° C. and stirred overnight. The acetic acid was removed in vacuo. The residue was purified by flash chromatography (70% hexanes, 30% ethyl acetate) to provide 3-(1,1-dimethylethyl)-6-fluoro-1-methyl-9-(methyloxy)-5-{3-methyl-4-[(phenylmethyl)oxy]phenyl}-3H-pyrazolo[3,4-c]isoquinolin-8-ol (207 mg, 0.42 mmol, 81% yield) as an orange foam. 1H NMR (400 MHz, CDCl3): δ 7.52-7.35 (m, 7H), 6.99 (br d, 1H), 6.85 (d, 1H), 5.17 (s, 2H), 3.82 (s, 3H), 2.89 (s, 3H), 2.39 (s, 3H), 1.88 (s, 9H); MS (EI) for C30H30FN3O3: 500 (MH+).

reactant | 3-[5-amino-1-(1,1-dimethylethyl)-3-methyl-1H-pyrazol-4-yl]-5-fluoro-2-(methyloxy)phenol | 0.51 mmol, 150 mg | NC1=C(C(=NN1C(C)(C)C)C)C=1C(=C(C=C(C1)F)O)OC | C15H20FN3O2
reactant | 4-benzyloxy-3-methylbenzaldehyde | 0.51 mmol, 115 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)C | C15H14O2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 3-(1,1-dimethylethyl)-6-fluoro-1-methyl-9-(methyloxy)-5-{3-methyl-4-[(phenylmethyl)oxy]phenyl}-3H-pyrazolo[3,4-c]isoquinolin-8-ol | 0.42 mmol, 207 mg, 81% yield | CC(C)(C)N1N=C(C2=C1N=C(C=1C(=CC(=C(C21)OC)O)F)C2=CC(=C(C=C2)OCC2=CC=CC=C2)C)C | C30H30FN3O3
